*  Generated for: PrimeSim
*  Design library name: basic_cells
*  Design cell name: test_inv_SPICE
*  Design view name: schematic



.option PARHIER = LOCAL
.option PORT_VOLTAGE_SCALE_TO_2X = 1
.option RUNLVL = 3
.option S_ELEM_CACHE_DIR = "/home/sfallas_II_2024_vlsi/.synopsys_custom/sparam_dir"
.option PVA_OUTPUT_DIR = "/home/sfallas_II_2024_vlsi/.synopsys_custom/pva_dir"

.option WDF=1
.temp 25
.lib '/mnt/vol_NFS_rh003/Est_VLSI_II_2024/sfallas/EL5807/Tarea_1/Hspice/lpmos/xh018.lib' tm
.lib '/mnt/vol_NFS_rh003/Est_VLSI_II_2024/sfallas/EL5807/Tarea_1/Hspice/lpmos/param.lib' 3s
.lib '/mnt/vol_NFS_rh003/Est_VLSI_II_2024/sfallas/EL5807/Tarea_1/Hspice/lpmos/config.lib' default

*PrimeWave Design Environment Version U-2023.03-SP2
*Sun Nov 24 12:47:08 2024

.global gnd! vdd!
********************************************************************************
* Library          : basic_cells
* Cell             : inv
* View             : schematic
* View Search List : hspice hspiceD schematic spice veriloga
* View Stop List   : hspice hspiceD
********************************************************************************
.subckt inv a q
xm0 q a gnd! gnd! ne w=360n l=180n as=1.728e-13 ad=1.728e-13 ps=1.68e-06 pd=1.68e-06
+ nrs=0.75 nrd=0.75 m='1*1' par1='1*1' xf_subext=0
xm2 q a vdd! vdd! pe w='w_p' l=180n as=8.64e-13 ad=8.64e-13 ps=4.56e-06 pd=4.56e-06
+ nrs=0.15 nrd=0.15 m='1*1' par1='1*1'
.ends inv

********************************************************************************
* Library          : basic_cells
* Cell             : test_inv_SPICE
* View             : schematic
* View Search List : hspice hspiceD schematic spice veriloga
* View Stop List   : hspice hspiceD
********************************************************************************
v3 vdd! gnd! dc=1.8
v1 a gnd! dc=0 pulse ( 0 1.8 0 '10ps' 10p '2ns' '4ns' )
xi2 a q inv
x1 a q inv w_p='w_p'
c8 q gnd! c=6.7f


.param w_p_start=1800n
.param w_p_stop=2400n
.param w_p_step=10n




.dc v1 0 1.8 0.01 sweep w_p w_p_start w_p_stop w_p_step
.option opfile=1 split_dp=1
.option probe=1
.probe dc v(*) level=1
.probe dc v(q)








.end
